US04271172
18.6 g (0.03 mole) of tert-butyl 4-benzyloxycarbonyl-8-phenyl-alpha-phthalimido-1-thia-3,8-diazaspiro[4.5]decane-2-acetate (obtained in 3.3) are suspended in 50 ml of N,N'-dimethylformamide. A solution containing 2 g (0.04 mole) of hydrazine hydrate in 20 ml of N,N-dimethylformamide is added dropwise at 0° C. under an atmosphere of nitrogen. The reaction mixture is allowed to warm up to ambient temperature and stirred for 1 hour. The reaction mixture is then again cooled to 0° C. and slowly neutralized by the addition of 33.75 ml of 1N hydrochloric acid, whereafter it is stirred at ambient temperature for 2 hours after which time it solidifies. 300 ml of water are added, followed by extraction with chloroform. The organic phase is washed with water, dried with anhydrous sodium sulfate and evaporated to dryness. The residue is triturated with diethyl ether, filtered and the precipitate washed with diethyl ether. There are obtained 12.8 g of tert-butyl alpha-amino-4-benzyloxycarbonyl-8-phenyl-1 -thia-3,8-diazaspiro[4.5]decane-2-acetate.

reactant | tert-butyl 4-benzyloxycarbonyl-8-phenyl-alpha-phthalimido-1-thia-3,8-diazaspiro[4.5]decane-2-acetate | 0.03 mole, 18.6 g | C(C1=CC=CC=C1)OC(=O)C1NC(SC12CCN(CC2)C2=CC=CC=C2)C(C(=O)OC(C)(C)C)N2C(C=1C(C2=O)=CC=CC1)=O | C35H37N3O6S
reactant | hydrazine hydrate | 0.04 mole, 2 g | O.NN
reactant | hydrochloric acid | 1N, 33.75 ml | Cl | ClH
reactant | water | 300 ml | O | H2O
solvent | N,N'-dimethylformamide | 50 ml | CN(C)C=O | C3H7NO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | tert-butyl alpha-amino-4-benzyloxycarbonyl-8-phenyl-1 -thia-3,8-diazaspiro[4.5]decane-2-acetate | 12.8 g, Yield: 86.7% | NC(C(=O)OC(C)(C)C)C1SC2(C(N1)C(=O)OCC1=CC=CC=C1)CCN(CC2)C2=CC=CC=C2 | C27H35N3O4S
